US05869509
4-(5-Chloro-2-hydroxyphenyl)-5-[3,5-bis(trifluoromethyl)phenyl]-2,4-dihydro-3H-1,2,4-triazol-3-one (I25 : X=Cl, n=0, R1 =R3 =CF3, R2 =H)
5-[3,5-Bis(trifluoromethyl)phenyl]-4-(5-chloro-2-methoxy phenyl)-2,4-dihydro-3H-1,2,4-triazol-3-one (1.6 g, 3.6 mmol) was admixed with pyridine hydrochloride (6.7 g, 58 mmol) and heated at 225° C. for 1 h. After being cooled, the solid was covered with ethyl acetate (25 ml) and water (15 ml) and subjected to ultrasonication (bath) for several minutes in order to break the solid free from the glass wall. The organic suspension was diluted with ethyl acetate (100 ml) washed with water (25 ml), saturated sodium carbonate solution (25 ml), and brine. Concentration gave a solid 1.46 g (95%) which was recrystallized from acetonitrile. mp 275°-278° C. IR(KBr, ν=cm-1) 3166,1681, 1314, 1275, 1180, 1140; 1H NMR (300 MHz, DMSO6) δ6.92 (1H, d, J=8.8 Hz), 7.38 (1H, dd, J=8.8 Hz, 2.6 Hz), 7.58 (1H, d, J=2 Hz), 7.91 (2H, s), 8.17 (1H, s), 10.45 (1H, s), 10.45 (1H, s), 12.44 (1H, s); MS(DCl)m/z: 424(MH+).

reactant | 5-[3,5-Bis(trifluoromethyl)phenyl]-4-(5-chloro-2-methoxy phenyl)-2,4-dihydro-3H-1,2,4-triazol-3-one | 3.6 mmol, 1.6 g | FC(C=1C=C(C=C(C1)C(F)(F)F)C=1N(C(NN1)=O)C1=C(C=CC(=C1)Cl)OC)(F)F | C17H10ClF6N3O2
reactant | pyridine hydrochloride | 58 mmol, 6.7 g | Cl.N1=CC=CC=C1
reactant | water | 15 ml | O | H2O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
product | 4-(5-Chloro-2-hydroxyphenyl)-5-[3,5-bis(trifluoromethyl)phenyl]-2,4-dihydro-3H-1,2,4-triazol-3-one | 1.46 g, 95% | ClC=1C=CC(=C(C1)N1C(NN=C1C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O)O | C16H8ClF6N3O2
